US04021442
225 parts of 2-octyl-5-nitroimidazole is boiled under reflux with 500 parts of formic acid and 126 parts of dimethyl sulfate for 4 hours, the formic acid is distilled off in vacuo and 500 parts of water is added to the residue. The unreacted 2-octyl-5-nitroimidazole (72 parts) is separated and the aqueous phase is adjusted with aqueous ammonia solution to pH 10 so that the 1-methyl-2-octyl-5-nitroimidazole separates as an oily substance. The crude product is dissolved in ether and saturated with hydrogen chloride while cooling. 123 parts of 1-methyl-2-octyl-5-nitroimidazole having a melting point of 141° C. is obtained and this is equivalent to a yield of 66% of theory based on the 2-octyl-5-nitroimidazole reacted.

reactant | 2-octyl-5-nitroimidazole | C(CCCCCCC)C=1NC(=CN1)[N+](=O)[O-] | C11H19N3O2
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | formic acid | C(=O)O | CH2O2
product | 1-methyl-2-octyl-5-nitroimidazole | yield of 66% | CN1C(=NC=C1[N+](=O)[O-])CCCCCCCC | C12H21N3O2
